US07749992B2
Step 4. Preparation of Methyl 4-bromo-2-[isopropoxycarbonyl-(3-methoxycarbonylpropyl)amino]benzoate
Heat a suspension of methyl 4-bromo-2-isopropoxycarbonylaminobenzoate (19.2 g, 60.7 mmol), methyl 4-iodobutyrate (16.4 mL, 121 mmol) and cesium carbonate (39.6 g, 121 mmol) in N,N-dimethylformamide (240 mL) under nitrogen at 80° C. for 24 h. Cool the mixture to room temperature and pour into a saturated ammonium chloride solution (500 mL) and extract with ethyl acetate (3×200 mL). Combine the organic extracts and wash with water (2×400 mL), brine (100 mL), then dry the solution over sodium sulfate, filter and remove the solvent under reduced pressure. Purify the residue using chromatography on silica gel, eluting with hexanes/ethyl acetate (60:40), to provide the title compound as an orange oil (15.9 g, 63%): APCI MS 416 (M+H

reactant | methyl 4-bromo-2-isopropoxycarbonylaminobenzoate | 60.7 mmol, 19.2 g | BrC1=CC(=C(C(=O)OC)C=C1)NC(=O)OC(C)C | C12H14BrNO4
reactant | methyl 4-iodobutyrate | 121 mmol, 16.4 mL | ICCCC(=O)OC | C5H9IO2
reactant | cesium carbonate | 121 mmol, 39.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 240 mL | CN(C=O)C | C3H7NO
product | Methyl 4-bromo-2-[isopropoxycarbonyl-(3-methoxycarbonylpropyl)amino]benzoate | 15.9 g, 63% | BrC1=CC(=C(C(=O)OC)C=C1)N(CCCC(=O)OC)C(=O)OC(C)C | C17H22BrNO6
